US04159981
14. H-Asp(tBu)-Phe-OCH3
48.6 g of Z-Asp(OtBu)-Phe-OCH 3 in 700 ml of methanol are decarbobenzoxylated in a duck-shaped flask at room temperature after adding 33.5 ml of 3 N hydrogen chloride in dioxane and 5 g of 10% strength palladium catalyst on charcoal. After the hydrogen uptake has ended the mixture is filtered and the filtrate evaporated. 38.7 g of a white foam are obtained. In a thin layer chromatogram on silica gel in chloroform-methanol (9:1) Rf = 0.60; in chloroform-acetone (1:1) Rf = 0.58; Rf102E = 0.42. The product is employed for the subsequent condensation without additional purification.

reactant | Z-Asp(OtBu)-Phe | 48.6 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C25H30N2O7
reactant | hydrogen chloride | 3 N, 33.5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | methanol | 700 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
product | H-Asp(tBu)-Phe-OCH3 | 38.7 g | N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C18H26N2O5
